US06509328B1
(4-Isopropyl-2-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-isopropyl-phenyl)-carbamic acid tert.-butyl ester (Example G47) and 2,2-dimethyl-6-[3-(2-methyl-imidazol-1-yl)-phenyl]-[1,3]dioxin-4-one (Example J15) according to the general procedure K. Obtained as a yellow oil (186 mg).

reactant | (2-amino-4-isopropyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)N)=O | C14H22N2O2
reactant | 2,2-dimethyl-6-[3-(2-methyl-imidazol-1-yl)-phenyl]-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)N1C(=NC=C1)C)C | C16H16N2O3
product | (4-Isopropyl-2-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic Acid tert.-Butyl Ester | 186 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)C)=O)=O | C27H32N4O4
